US04663319
A solution of benzyloxycarbonyl chloride (539 mg) in benzene (1.5 ml) is added dropwise to a mixture of ethyl[N-(p-aminobenzyl)-N-(methoxycarbonylethyl)carbamoyl]acetate (810 mg), potassium carbonate (595 mg), benzene (10 ml) and water (10 ml) at a temperature of 8° C. under stirring. The mixture is stirred at the same temperature for 30 minutes. The mixture is extracted with ethyl acetate, and the extract is washed with water, dried and then distilled to remove the solvent. The residue is purified by silica gel column chromatography (solvent, ethyl acetate:benzene=3:7) to give ethyl[N-(p-(N-benzyloxycarbonylamino)benzyl)-N-(methoxycarbonylethyl)carbamoyl]acetate (1.08 g, 94.2%) as colorless oil.

reactant | benzyloxycarbonyl chloride | 539 mg | C(C1=CC=CC=C1)OC(=O)Cl | C8H7ClO2
reactant | ethyl[N-(p-aminobenzyl)-N-(methoxycarbonylethyl)carbamoyl]acetate | 810 mg | C(C)OC(CC(N(CCC(=O)OC)CC1=CC=C(C=C1)N)=O)=O | C16H22N2O5
reactant | potassium carbonate | 595 mg | C([O-])([O-])=O.[K+].[K+]
reactant | water | 10 ml | O | H2O
solvent | benzene | 1.5 ml | C1=CC=CC=C1 | C6H6
solvent | benzene | 10 ml | C1=CC=CC=C1 | C6H6
product | ethyl[N-(p-(N-benzyloxycarbonylamino)benzyl)-N-(methoxycarbonylethyl)carbamoyl]acetate | 1.08 g, 94.2% | C(C)OC(CC(N(CCC(=O)OC)CC1=CC=C(C=C1)NC(=O)OCC1=CC=CC=C1)=O)=O | C24H28N2O7
